US06552188B2
Synthesis of ethyl 6-(3,4,5-trimethoxyphenyl)nicotinate
3,4,5-Trimethoxyphenylboronic acid (1.16 g) and ethyl 6-chloronicotinate (1.02 g) were reacted in the same manner as in Preparation Example 1 to obtain the title compound.

reactant | 3,4,5-Trimethoxyphenylboronic acid | 1.16 g | COC=1C=C(C=C(C1OC)OC)B(O)O | C9H13BO5
reactant | ethyl 6-chloronicotinate | 1.02 g | ClC1=NC=C(C(=O)OCC)C=C1 | C8H8ClNO2
product | ethyl 6-(3,4,5-trimethoxyphenyl)nicotinate | COC=1C=C(C=C(C1OC)OC)C1=NC=C(C(=O)OCC)C=C1 | C17H19NO5
